US04806553
Nitroacetone (1.1 g) and N-(2-chloro-5-pyridylmethyl)-N-methylethylenediamine (2.0 g) were dissolved in toluene (60 ml), and the solution was refluxed for 3 hours in a flask equipped with a water separating device while removing water formed by the reaction. Toluene was concentrated under reduced pressure, and the remaining solid was recrystallized from ethanol to give the desired N-(2-chloro-5-pyridylmethyl)-N-methyl-N'-(1-methyl-2-nitrovinyl)ethylenediamine (2.0 g) having a melting point of 78° to 80° C.

reactant | Nitroacetone | 1.1 g | [N+](=O)([O-])CC(C)=O | C3H5NO3
reactant | N-(2-chloro-5-pyridylmethyl)-N-methylethylenediamine | 2.0 g | ClC1=NC=C(C=C1)CN(CCN)C | C9H14ClN3
reactant | water | O | H2O
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2-chloro-5-pyridylmethyl)-N-methyl-N'-(1-methyl-2-nitrovinyl)ethylenediamine | 2.0 g | ClC1=NC=C(C=C1)CN(CCNC(=C[N+](=O)[O-])C)C | C12H17ClN4O2
